**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 THT High Current Inductor 
* Matchcode:             WE-HIDA
* Library Type:          LTspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         6/9/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1480_7444011480082_8.2u 1 2
Rp 1 2 3751.4
Cp 1 2 7.5266p
Rs 1 N3 0.009
L1 N3 2 7.6456u
.ends 1480_7444011480082_8.2u
*******
.subckt 1480_7444011480100_10u 1 2
Rp 1 2 3786.6
Cp 1 2 7.4402p
Rs 1 N3 0.009
L1 N3 2 8.7606u
.ends 1480_7444011480100_10u
*******
.subckt 1480_7444011480150_15u 1 2
Rp 1 2 4848.2
Cp 1 2 10.2028p
Rs 1 N3 0.01
L1 N3 2 13.7286u
.ends 1480_7444011480150_15u
*******
.subckt 1480_7444011480220_22u 1 2
Rp 1 2 5250.6
Cp 1 2 11.2868p
Rs 1 N3 0.01
L1 N3 2 20.6298u
.ends 1480_7444011480220_22u
*******
.subckt 1715_7444011715220_22u 1 2
Rp 1 2 4884.6
Cp 1 2 7.5382p
Rs 1 N3 0.007
L1 N3 2 20.7846u
.ends 1715_7444011715220_22u
*******
.subckt 1715_7444011715150_15u 1 2
Rp 1 2 4503.2
Cp 1 2 8.0702p
Rs 1 N3 0.007
L1 N3 2 14.606u
.ends 1715_7444011715150_15u
*******
.subckt 1715_7444011715100_10u 1 2
Rp 1 2 4101.6
Cp 1 2 6.582p
Rs 1 N3 0.007
L1 N3 2 8.52u
.ends 1715_7444011715100_10u
*******
.subckt 1715_7444011715082_8.2u 1 2
Rp 1 2 3901.2
Cp 1 2 7.8626p
Rs 1 N3 0.007
L1 N3 2 6.9308u
.ends 1715_7444011715082_8.2u
*******
.subckt 3119_7444013119082_8.2u 1 2
Rp 1 2 1000
Cp 1 2 11.2p
Rs 1 N3 0.0025
L1 N3 2 7.6u
.ends 3119_7444013119082_8.2u
*******
.subckt 3119_7444013119100_10u 1 2
Rp 1 2 4000
Cp 1 2 13.6666666666667p
Rs 1 N3 0.0048
L1 N3 2 10u
.ends 3119_7444013119100_10u
*******
.subckt 3119_7444013119220_22u 1 2
Rp 1 2 5000
Cp 1 2 12p
Rs 1 N3 0.0053
L1 N3 2 20u
.ends 3119_7444013119220_22u
*******
.subckt 3119_7444013119150_15u 1 2
Rp 1 2 4000
Cp 1 2 13p
Rs 1 N3 0.0048
L1 N3 2 14u
.ends 3119_7444013119150_15u
*******
